US07101871B2
Step E: (3R)-4-[(3R)-3-[(tert-Butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoyl]hexahydro-3-methyl-2H-1,4-diazepin-2-one
To a solution of N-methylmorpholine (0.38 μL) and (3R)-3-[(tert-butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoic acid (1.0 g) in 20 mL of dichloromethane at −20° C. was added isobutyl chloroformate (0.39 mL). The resultant mixture was stirred for 1 h. (3R)-hexahydro-3-methyl-2H-1,4-diazepin-2-one hydrochloride (500 mg) and N-methylmorpholine (0.40 mL) in dichloromethane (5 mL) and DMF (8 mL) were added. The mixture was stirred for 28 h, initially at −20° C. and then with slow warming to ambient temperature. The reaction was quenched by the addition of saturated ammonium chloride solution and extracted sequentially with dichloromethane and ethyl acetate. The combined organic layer was washed sequentially with water and brine, dried over sodium sulfate, and concentrated. The residue was purified by chromatography (silica gel, 3 to 7% 10:1 methanol/concentrated ammonium hydroxide in dichloromethane) to afford the coupled product. This was further purified by dissolving the product in a mixture of ethanol (7.5 mL) and hexane (16 mL) at 50° C. The solution was allowed to cool to ambient temperature overnight, and then placed in the refrigerator for 3 h. The solid was collected and washed with cold 5% ethanol/hexane to give the title compound.

reactant | N-methylmorpholine | 0.38 μL | CN1CCOCC1 | C5H11NO
reactant | (3R)-3-[(tert-butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoic acid | 1.0 g | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)O)CC1=C(C=C(C(=C1)F)F)F | C15H18F3NO4
reactant | isobutyl chloroformate | 0.39 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | (3R)-hexahydro-3-methyl-2H-1,4-diazepin-2-one hydrochloride | 500 mg | Cl.C[C@@H]1C(NCCCN1)=O
reactant | N-methylmorpholine | 0.40 mL | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | (3R)-4-[(3R)-3-[(tert-Butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoyl]hexahydro-3-methyl-2H-1,4-diazepin-2-one | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)N1[C@@H](C(NCCC1)=O)C)CC1=C(C=C(C(=C1)F)F)F | C21H28F3N3O4
